US07365064B2
To a solution of 2-nitro-5-fluorophenol (1.0 g, 1 eq, 6.36 mmol) and ethyl 2-bromopropionate (0.91 ml, 1.1 eq, 6.99 mmol) in dry acetone (32 ml) was added anhydrous potassium carbonate (2.63 g, 3 eq, 19.08 mmol) and the reaction mixture was refluxed for 16 h. The reaction mixture was filtered through celite and then condensed on rotavapour. The residue was diluted with ethyl acetate and washed with water and brine to yield ethyl 2-(2-nitro-5-fluorophenoxy)propanoate as crude compound (1.6 g, yield 98%), which was used in step (ii).

reactant | 2-nitro-5-fluorophenol | 6.36 mmol, 1.0 g, 1 eq | [N+](=O)([O-])C1=C(C=C(C=C1)F)O | C6H4FNO3
reactant | ethyl 2-bromopropionate | 6.99 mmol, 0.91 ml, 1.1 eq | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 19.08 mmol, 2.63 g, 3 eq | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 32 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(2-nitro-5-fluorophenoxy)propanoate | [N+](=O)([O-])C1=C(OC(C(=O)OCC)C)C=C(C=C1)F | C11H12FNO5
